US07838624B2
Synthesis of 3-[4-(2-ethylhexyl)-phenyl]-thiophene
A dry 250-mL three-neck round bottom flask, equipped with a condenser, was charged with 1-bromo-4-(2-ethylhexyl)-benzene (8 g, 0.03 mol) and purged with N2 followed by addition of anhydrous THF (50 mL) via a deoxygenated syringe. The reaction flask was cooled to −78° C. and n-butyllithium, a 2.5 M solution in hexane (12 mL, 0.03 mol), was added dropwise via syringe. The reaction mixture was stirred for 1 hour at −78° C. Anhydrous ZnCl2 (4.09 g, 0.03 mol) was added in one portion and completely dissolved after 30 minutes of stirring. The cooling bath was removed and the reaction mixture was allowed to warm to ambient temperature, whereupon 3-bromothiophene (5.38 g, 0.03 mol) and Ni(dppp)Cl2 (0.32 g, 2 mol %) were added. The solution was heated up to reflux and maintained at that temperature for 12 hours, then cooled to ambient temperature, and quenched with cold HCl (10 mL, 1.0 N). The aqueous layer was separated and extracted with diethyl ether (3×100 mL). The organic phase was collected and dried over anhydrous magnesium sulfate (MgSO4). After the product was filtered, the solvent was removed by rotary evaporation. The crude product was purified by recrystallization from methanol affording 5.3 g (65%) of white solid.

reactant | 1-bromo-4-(2-ethylhexyl)-benzene | 0.03 mol, 8 g | BrC1=CC=C(C=C1)CC(CCCC)CC | C14H21Br
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 0.03 mol, 12 mL | CCCCCC | C6H14
reactant | 3-bromothiophene | 0.03 mol, 5.38 g | BrC1=CSC=C1 | C4H3BrS
catalyst | ZnCl2 | 0.03 mol, 4.09 g | [Cl-].[Cl-].[Zn+2]
catalyst | Ni(dppp)Cl2 | 0.32 g | Cl[Ni]1([P](CCC[P](C2=CC=CC=C2)1C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5)Cl
product | 3-[4-(2-ethylhexyl)-phenyl]-thiophene | C(C)C(CC1=CC=C(C=C1)C1=CSC=C1)CCCC | C18H24S
